US08835449B2
2-(6-(5-Chloro-2-methoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide
A slurry of (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate (20 g, 63 mmol) in a mixture of butyl acetate (140 mL) and DMF (38 mL) was treated with trimethylsilyl isothiocyanate (16.8 g, 125 mmol) and the mixture was heated at 115-120° C. for 5-6 hours. The mixture was cooled to 0-5° C., butyl acetate (100 mL) was added and the mixture was slurried for 8 hours. The formed solids were filtered, and the filter cake was washed with butyl acetate (2×100 mL). The solid was dried in a vacuum oven at 50° C. for 12 hours to a tan solid. The solid was dissolved in a 5:1 mixture of DMF and water at room temperature and additional water was added slowly to crystallize the material. The slurry was cooled to 10° C. and stirred for 8 hours, followed by filtration and washing with water. The filter cake was dried in a vacuum oven at 50° C. for 8 hours. The solid was dissolved in a 1:1 mixture of methanol and water and the slurry was heated to 50° C. and held at this temperature for 2 hours. After cooling to 10° C. over 30 minutes, the slurry was held at this temperature for 1 hour, filtered and washed with water and dried in a vacuum oven at 50° C. for 8 hours to give the title compound as a white solid.

reactant | (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate | 63 mmol, 20 g | NC(CN\C(=C/C(=O)OCC)\C1=C(C=CC(=C1)Cl)OC)=O | C14H17ClN2O4
reactant | trimethylsilyl isothiocyanate | 125 mmol, 16.8 g | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | butyl acetate | 140 mL | C(C)(=O)OCCCC | C6H12O2
solvent | DMF | 38 mL | CN(C)C=O | C3H7NO
solvent | butyl acetate | 100 mL | C(C)(=O)OCCCC | C6H12O2
product | 2-(6-(5-Chloro-2-methoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide | ClC=1C=CC(=C(C1)C1=CC(NC(N1CC(=O)N)=S)=O)OC | C13H12ClN3O3S
